US07414134B2
Synthesis of (R)-3-(1-((R)-7-((cyclopentylamino)methyl)-3,4-dihydro-2H-chromen-4-yl)-1H-1,2,3-triazol-4-yl)-2-(4-methylbenzenesulfonamido)propanamide
A mixture of (R)-3-(1-((R)-7-((cyclopentylamino)methyl)-3,4-dihydro-2H-chromen-4-yl)-1H-1,2,3-triazol-4-yl)-2-(4-methylphenylsulfonamido)propanoic acid (61 mg, 0.11 mol), HOAt (18 mg, 0.12 mmol), i-Pr2NEt (60. mL, 0.45 mmol), NH4Cl (25 mg, 0.45 mmol), and EDCI (24 mg, 0.12 mmol) in 5 mL DMF was stirred for 24 h at RT. The reaction mixture was concentrated, taken up in H2O, and the white solid was filtered and air-dried to afford the title compound. MS (m/z, m+1): 539.4.

reactant | (R)-3-(1-((R)-7-((cyclopentylamino)methyl)-3,4-dihydro-2H-chromen-4-yl)-1H-1,2,3-triazol-4-yl)-2-(4-methylphenylsulfonamido)propanoic acid | 0.11 mol, 61 mg | C1(CCCC1)NCC1=CC=C2[C@@H](CCOC2=C1)N1N=NC(=C1)C[C@H](C(=O)O)NS(=O)(=O)C1=CC=C(C=C1)C | C27H33N5O5S
reactant | HOAt | 0.12 mmol, 18 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | i-Pr2NEt | 0.45 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | NH4Cl | 0.45 mmol, 25 mg | [NH4+].[Cl-]
reactant | EDCI | 0.12 mmol, 24 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (R)-3-(1-((R)-7-((cyclopentylamino)methyl)-3,4-dihydro-2H-chromen-4-yl)-1H-1,2,3-triazol-4-yl)-2-(4-methylbenzenesulfonamido)propanamide | C1(CCCC1)NCC1=CC=C2[C@@H](CCOC2=C1)N1N=NC(=C1)C[C@H](C(=O)N)NS(=O)(=O)C1=CC=C(C=C1)C | C27H34N6O4S
